US09259470B2
A mixture of cis-4-(benzylamino)-(tetrahydro-2H-pyran-2-yl)methanol (1.1 g, 5.0 mol) and Pd/C (10%, 0.10 g) in methanol (20 mL) was stirred under hydrogen (1 atm) for 2 hours. The resulting mixture was filtered through a pad of Celite®. The filtrate was concentrated to give cis-(4-aminotetrahydro-2H-pyran-2-yl)methanol (500 mg, 77% yield). LCMS (ESI) m/z: 132.2 [M+H]+.

reactant | cis-4-(benzylamino)-(tetrahydro-2H-pyran-2-yl)methanol | 5.0 mol, 1.1 g | C(C1=CC=CC=C1)N[C@@H]1C[C@@H](OCC1)CO | C13H19NO2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.10 g | [Pd] | Pd
product | cis-(4-aminotetrahydro-2H-pyran-2-yl)methanol | 500 mg, 77% yield | N[C@@H]1C[C@@H](OCC1)CO | C6H13NO2
